US06469176B1
Preparation of 3-(2-Methyl-6-methylthiophenyl)-4,5-dihydroisoxazole (Process Step d)—Variant A)
19.5 g (170 mmol) of tert-butylnitrite and 20 g of copper powder are initially charged in 30 ml of dimethyl disulfide, and a solution of 20 g (114 mmol) of 2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline in 100 ml of dimethyl disulfide is added dropwise at from 50 to 55° C. The mixture is subsequently stirred at 60° C. for 1.5 hours. For work-up, the solid is filtered off with suction, and the filtrate is diluted with methylene chloride and extracted with dilute hydrochloric acid. The organic phase is washed with saturated aqueous NaHCO3 solution and dried over sodium sulfate, the drying agent is filtered off and the filtrate is concentrated. Excess dimethyl disulfide is removed under oil pump vacuum.

reactant | tert-butylnitrite | 170 mmol, 19.5 g | C(C)(C)(C)ON=O | C4H9NO2
reactant | 2-(4,5-dihydroisoxazol-3-yl)-3-methylaniline | 114 mmol, 20 g | O1N=C(CC1)C1=C(N)C=CC=C1C | C10H12N2O
reactant | dimethyl disulfide | 30 ml | CSSC | C2H6S2
reactant | dimethyl disulfide | 100 ml | CSSC | C2H6S2
catalyst | copper | 20 g | [Cu] | Cu
product | 3-(2-Methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | CC1=C(C(=CC=C1)SC)C1=NOCC1 | C11H13NOS
